US05959123
To a solution of phenol (30 mg, 0.32 mmol) in acetone (2 ml) and 1 N NaOH (0.25 ml), (3S,4S)-3{N-benzyloxycarbonyl-β-(2-naphthyl)-L-alanyl}-amino-4-acetoxy-azetidin-2-one (95 mg, 0.2 mmol) in acetone (1 ml) and THF (2 ml) was added at 5° C. The mixture was stirred at 5° C. for 1 hr and then at room temperature for 1 hr. After removal of solvent, the residue was dissolved in ethyl acetate, washed with water, brine and dried over sodium sulfate. After removal of solvent, the residue was purified by silica gel column chromatography using ethyl acetate-hexane (1:2) as eluent and 45 mg of (3S,4S)-3-{N-benzyloxycarbonyl-β-(2-naphthyl)-L-alanyl}-amino-4-phenoxy-azetidin-2-one was obtained.

reactant | phenol | 0.32 mmol, 30 mg | C1(=CC=CC=C1)O | C6H6O
reactant | (3S,4S)-3{N-benzyloxycarbonyl-β-(2-naphthyl)-L-alanyl}-amino-4-acetoxy-azetidin-2-one | 0.2 mmol, 95 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC2=CC=CC=C2C=C1)C(=O)[C@H]1C(N([C@H]1OC(C)=O)N)=O | C26H25N3O6
reactant | THF | 2 ml | C1CCOC1 | C4H8O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | NaOH | 1 N, 0.25 ml | [OH-].[Na+]
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | (3S,4S)-3-{N-benzyloxycarbonyl-β-(2-naphthyl)-L-alanyl}-amino-4-phenoxy-azetidin-2-one | 45 mg, Yield: 44% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC2=CC=CC=C2C=C1)C(=O)[C@H]1C(N([C@H]1OC1=CC=CC=C1)N)=O | C30H27N3O5
